US04166128
To a solution of 6.24 g of 2-(2,6-dichloroanilino)phenylglycolic acid in 30 ml of ethanol were added 10 ml of a 5 N aqueous sodium hydroxide solution and the mixture was stirred at room temperature for 1 hour. Then, 20 ml of water were added, and the mixture was concentrated to have a volume of 30 ml. The concentrate was cooled and the solid thus deposited was recovered by filtration. Recrystallization from water gave sodium 2-(2,6-dichloroanilino)phenylglycolate. m.p. 101°-104° C.

reactant | 2-(2,6-dichloroanilino)phenylglycolic acid | 6.24 g | ClC1=C(NC2=C(C=CC=C2)C(C(=O)O)O)C(=CC=C1)Cl | C14H11Cl2NO3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | sodium 2-(2,6-dichloroanilino)phenylglycolate | ClC1=C(NC2=C(C=CC=C2)C(C(=O)[O-])O)C(=CC=C1)Cl.[Na+] | InChI=1S/C14H11Cl2NO3.Na/c15-9-5-3-6-10(16)12(9)17-11-7-2-1-4-8(11)13(18)14(19)20;/h1-7,13,17-18H,(H,19,20);/q;+1/p-1
